US06057452
N-(t-Butylaminocarbonyl)-β-phenyl isoserine methyl ester
(2R,3S)-β-phenyl-isoserine methyl ester (4.35 g, 22 mM) is dissolved in dry THF (100 mL) and the flask cooled to 0°. To the mixture is added t-butyl isocyanate (2.8 mL, 25 mM). TLC after 15 minutes shows some starting material left so additional isocyanate (0.5 mL) is added. TLC after 1 hour shows no starting material so the solvent is concentrated under reduced pressure to give the title compound, NMR (CDCl3, TMS) 1.27, 3.43, 3.81, 4.34, 4.48, 5.27, 5.32, 7.29 and 7.34 δ; MS (FAB-High Res.) theory for C15H22N2O4 --H=295.1658, found=295.1663.

reactant | (2R,3S)-β-phenyl-isoserine methyl ester | 22 mM, 4.35 g | COC([C@@H]([C@@H](N)C1=CC=CC=C1)O)=O | C10H13NO3
reactant | t-butyl isocyanate | 25 mM, 2.8 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | isocyanate | 0.5 mL | [N-]=C=O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(t-Butylaminocarbonyl)-β-phenyl isoserine methyl ester | COC(C(C(NC(=O)NC(C)(C)C)C1=CC=CC=C1)O)=O | C15H22N2O4
